US08133884B2
Intermediate KP1: Preparation of tert-butyl 13-cyclohexyl-6-((2Z)-2-(ethoxycarbonyl)-4-methyl-2-pentenoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylate
Piperidine (17 μL, 0.18 mmol) was added to a stirring solution of tert-butyl 13-cyclohexyl-6-(3-ethoxy-3-oxopropanoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylate (1.0 g, 1.79 mmol) and isobutyraldehyde (16.4 mL, 179 mmol) in EtOH (9 mL) at room temperature. After 3 hrs of stirring an additional amount of piperidine (38 μL, 0.40 mmol) was added and the reaction was allowed to stir overnight at room temperature. The mixture was concentrated and was purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (950 mg, 1.55 mmol, 87% yield) consistent by LCMS and NMR as a yellow foamy sticky solid.

reactant | Piperidine | 0.18 mmol, 17 μL | N1CCCCC1 | C5H11N
reactant | tert-butyl 13-cyclohexyl-6-(3-ethoxy-3-oxopropanoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 1.79 mmol, 1.0 g | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(CC(=O)OCC)=O)C=C(C=C1)OC)C(=O)OC(C)(C)C | C34H39NO6
reactant | isobutyraldehyde | 179 mmol, 16.4 mL | C(C(C)C)=O | C4H8O
reactant | piperidine | 0.40 mmol, 38 μL | N1CCCCC1 | C5H11N
solvent | EtOH | 9 mL | CCO | C2H6O
product | tert-butyl 13-cyclohexyl-6-((2Z)-2-(ethoxycarbonyl)-4-methyl-2-pentenoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 1.55 mmol, 950 mg, 87% yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(/C(=C/C(C)C)/C(=O)OCC)=O)C=C(C=C1)OC)C(=O)OC(C)(C)C | C38H45NO6
